US05302718
Isobutyl 2-hydroxy-5-[2-[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]-ethenyl]benzoate
Isobutyl 2-hydroxy-5-iodobenzoate (70.2 g, 0.22 mol) and 4-ethenyl-N-(3-methyl-2-pyridinyl)benzenesulfonamide (54.8 g, 0.20 mol) were suspended in a solution of tributylamine (55.5 g, 0.3 mmol) and palladium(II) acetate (0.44 g 0.0022 mol) in dimethylacetamide (200 ml)

reactant | Isobutyl 2-hydroxy-5-iodobenzoate | 0.22 mol, 70.2 g | OC1=C(C(=O)OCC(C)C)C=C(C=C1)I | C11H13IO3
reactant | 4-ethenyl-N-(3-methyl-2-pyridinyl)benzenesulfonamide | 0.20 mol, 54.8 g | C(=C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C14H14N2O2S
reactant | tributylamine | 0.3 mmol, 55.5 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
catalyst | palladium(II) acetate | 0.0022 mol, 0.44 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Isobutyl 2-hydroxy-5-[2-[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]-ethenyl]benzoate | OC1=C(C(=O)OCC(C)C)C=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C25H26N2O5S
